** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/TG_2C.sch
**.subckt TG_2C VCTRLN VSS VOUT VIN VDD VCTRLP
*.iopin VCTRLN
*.iopin VCTRLP
*.opin VOUT
*.ipin VIN
*.iopin VSS
*.iopin VDD
XM1 VOUT VCTRLN VIN VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM2 VOUT VCTRLP VIN VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=2 mm_ok=1
**.ends
.end
